US04477447
To a solution of sodium 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer) (4.0 g) in dimethylsulfoxide (40 ml) was added isopropyl 1-iodoethoxyformate (5.1 g). The mixture was stirred for 30 minutes at ambient temperature and poured into a mixture of cold water and ethyl acetate. The organic layer was separated out and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, washed with water, dried over magnesium sulfate and evaporated to dryness. The residue was subjected to column chromatography on silica gel (50 g) using a mixture of benzene and ethyl acetate (3:2) as an eluent. The eluates containing an object compound were collected and evaporated to dryness to give 1-isopropoxycarbonyloxyethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer) (1.5 g), mp 120° to 125° C. (dec.).

reactant | sodium 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 4.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)[O-])C1=O)=NOC.[Na+]
reactant | isopropyl 1-iodoethoxyformate | 5.1 g | IC(C)OC(=O)OC(C)C | C6H11IO3
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 1-isopropoxycarbonyloxyethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 1.5 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OC(C)OC(=O)OC(C)C)C1=O)=NOC | C19H23N5O8S2
